US04716169
2-(4-Acetamino-2-methoxy-phenyl)-imidazo[1,2-b]pyridazine-hydrobromide
2 g (5 mmol) of 2-(4-Acetamino-5-bromo-2-methoxy-phenyl)-6-chloro-imidazo[1,2-b]pyridazine are suspended in 100 ml of dimethylformamide, mixed with 0.28 g (5 mmol) of ground potassium hydroxide and hydrogenated for 50 minutes at ambient temperature and in a Parr apparatus with 0.5 g of 20% Pd/C under a hydrogen pressure of 5 bar. Then 25 ml of water are added and the catalyst is filtered off. The mother liquor is concentrated by centrifuging and after stirring with 50 ml of water it is suction filtered, washed with water and dried in a vacuum drying cupboard at 50° C. over phosphorus pentoxide.

reactant | 2-(4-Acetamino-5-bromo-2-methoxy-phenyl)-6-chloro-imidazo[1,2-b]pyridazine | 5 mmol, 2 g | N(C(=O)C)C1=CC(=C(C=C1Br)C=1N=C2N(N=C(C=C2)Cl)C1)OC | C15H12BrClN4O2
reactant | potassium hydroxide | [OH-].[K+]
reactant | water | 25 ml | O | H2O
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
catalyst | Pd/C | 0.5 g | [Pd] | Pd
product | 2-(4-Acetamino-2-methoxy-phenyl)-imidazo[1,2-b]pyridazine-hydrobromide | Br.N(C(=O)C)C1=CC(=C(C=C1)C=1N=C2N(N=CC=C2)C1)OC | InChI=1S/C15H14N4O2.BrH/c1-10(20)17-11-5-6-12(14(8-11)21-2)13-9-19-15(18-13)4-3-7-16-19;/h3-9H,1-2H3,(H,17,20);1H
